US09260427B2
To a stirred solution of (S)-methyl 1-(2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)azetidine-3-carboxylate (341 mg, 0.489 mmol) in THF (10 mL) was added sulfuric acid (3 mL of a 5 M aqueous solution, 15 mmol). After 24 h, the mixture was diluted with water (100 mL) and extracted with EA (2×100 mL). The combined organic extracts were washed with brine (50 mL), dried over MgSO4 and solvents evaporated. Column chromatography (AcOH/EA/DCM/iso-hexanes) gave 233 mg (70%) of (S)-1-(2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)azetidine-3-carboxylic acid Compound 635 as a white solid. LCMS-ESI (m/z) calculated for C39H46N4O5S: 682.3; no m/z observed, tR=10.17 min (Method 10). The chiral purity was >98% e.e. (Chiral Method). 1H NMR (400 MHz, DMSO-d6) δ 12.75 (s, 1H), 9.17 (d, J=1.8 Hz, 2H), 8.77 (app dd, J=8.3, 2.7 Hz, 1H), 8.32 (dd, J=8.2, 4.7 Hz, 2H), 7.79 (d, J=8.7 Hz, 2H), 7.70 (d, J=3.9 Hz, 1H), 7.47-7.52 (m, 2H), 7.11-7.07 (m, 2H), 6.93 (app dd, J=3.9, 1.4 Hz, 1H), 4.70-4.63 (m, 1H), 4.43 (t, J=9.0 Hz, 0.5H), 4.30 (dd, J=8.7, 6.0 Hz, 0.5H), 4.21 (t, J=8.9 Hz, 0.5H), 4.15 (dd, J=8.5, 6.3 Hz, 0.5H), 4.08-3.99 (m, 3H), 3.47-3.40 (m, 1H), 3.93-3.87 (m, 1H), 3.15-3.01 (m, 2H), 1.77-1.70 (m, 2H), 1.49-1.16 (m, 17H), 0.88 (t, J=6.8 Hz, 3H).

reactant | (S)-methyl 1-(2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)azetidine-3-carboxylate | 0.489 mmol, 341 mg | C(C)(C)(C)C1=CC=C(S1)C(=O)N[C@H](C(=O)N1CC(C1)C(=O)OC)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC | C40H48N4O5S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | (S)-1-(2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)azetidine-3-carboxylic acid | 233 mg, 70% | C(C)(C)(C)C1=CC=C(S1)C(=O)N[C@H](C(=O)N1CC(C1)C(=O)O)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC | C39H46N4O5S
